US08097708B2
Synthesis of 2-hydroxy-2-(4-methoxyphenyl)ethylamine
2-Amino-4′-methoxyacetophenone hydrochloride (500 mg) was dissolved in methanol (10 ml), the solution was added with sodium borohydride (188 mg), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was added with sodium borohydride (188 mg), and further stirred for 30 minutes. The reaction mixture was added with 5 N aqueous sodium hydroxide (1 ml), the mixture was stirred for 10 minutes, and then added with chloroform, and the layers were separated. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered, and then the filtrate was concentrated under reduced pressure to obtain the title compound (240 mg).

reactant | 2-Amino-4′-methoxyacetophenone hydrochloride | 500 mg | Cl.NCC(=O)C1=CC=C(C=C1)OC
reactant | sodium borohydride | 188 mg | [BH4-].[Na+]
reactant | sodium borohydride | 188 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 5 N, 1 ml | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 10 ml | CO | CH4O
product | 2-hydroxy-2-(4-methoxyphenyl)ethylamine | 240 mg | OC(CN)C1=CC=C(C=C1)OC | C9H13NO2
